US05223498
A mixture of 1-(5-methyl-2-morpholinophenyl)thiourea (14 g), methyl iodide (7.9 g) in methanol (50 ml) was heated at reflux for 2 hours to give 2-methyl-1-(5-methyl-2-morpholinophenyl)-2-thiopseudourea hydroiodide as a pale yellow solid, m.p. 157°-159° C.

reactant | 1-(5-methyl-2-morpholinophenyl)thiourea | 14 g | CC=1C=CC(=C(C1)NC(=S)N)N1CCOCC1 | C12H17N3OS
reactant | methyl iodide | 7.9 g | CI | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | 2-methyl-1-(5-methyl-2-morpholinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC(=C1)C)N1CCOCC1)=N | InChI=1S/C13H19N3OS.HI/c1-10-3-4-12(16-5-7-17-8-6-16)11(9-10)15-13(14)18-2;/h3-4,9H,5-8H2,1-2H3,(H2,14,15);1H
